US07858603B2
4-stigmasta-ene-3-one oxime (R═R 3)
100 mg of 4-stigmasta-ene-3-one (0.24 mmol) is solubilized in 10 ml of pyridine in a 50 ml flask, then 100 mg of hydroxylamine hydrochloride is added. Stirring is maintained for 24 hours at ambient temperature, and the solvent is evaporated off under reduced pressure. Water then ethyl acetate is added in order to carry out an extraction. Then the organic phase is washed with an acidified aqueous solution (HCl 1%). The ethyl acetate is evaporated off under reduced pressure. A white powder is obtained with a yield greater than 50%.

reactant | 4-stigmasta-ene-3-one | 0.24 mmol, 100 mg | CC[C@H](CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C(C)C | C29H48O
reactant | hydroxylamine hydrochloride | 100 mg | Cl.NO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-stigmasta-ene-3-one oxime | yield greater than 50% | CC[C@H](CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=NO)C(C)C | C29H49NO
